US04282242
By the procedure of Example 23, methyl pyrrole 3-carboxylate (2.5 g., 20 mmoles) was reacted with 2,4,5-trichlorobenzenesulfenyl chloride (4.95 g., 20 mmoles) to yield crude product (6.0 g.) as a foam. The crude was chromatographed on 300 g. of silica gel with 200 ml. fractions of the ethyl acetate-1/hexane-7 eluant collected. Fractions 6 to 12 were combined and evaporated to yield methyl 5-(2,4,5-trichlorophenylthio)pyrrole-3-carboxylate (2.2 g., m.p. 165°-175° C.).

reactant | methyl pyrrole 3-carboxylate | 20 mmoles, 2.5 g | N1C=C(C=C1)C(=O)OC | C6H7NO2
reactant | 2,4,5-trichlorobenzenesulfenyl chloride | 20 mmoles, 4.95 g | ClC1=C(C=C(C(=C1)Cl)Cl)SCl | C6H2Cl4S
product | methyl 5-(2,4,5-trichlorophenylthio)pyrrole-3-carboxylate | 2.2 g | ClC1=C(C=C(C(=C1)Cl)Cl)SC1=CC(=CN1)C(=O)OC | C12H8Cl3NO2S
